US09211245B2
Proline (manufactured by Ajinomoto Co., Inc., 34.54 g) was dissolved in water (100 g), and decanoyl chloride (manufactured by Tokyo Chemical Industry Co., Ltd., 52.01 g) and 25% aqueous sodium hydroxide solution were added while adjusting to pH 12. The mixture was neutralized with 75% sulfuric acid, and the aqueous layer was removed. Water and ethyl acetate were further added, and the aqueous layer was removed. Ethyl acetate was evaporated under reduced pressure to give decanoyl proline (68.12 g).

reactant | Proline | 34.54 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | decanoyl chloride | 52.01 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 g | O | H2O
product | decanoyl proline | 68.12 g | C(CCCCCCCCC)(=O)N1[C@H](C(=O)O)CCC1 | C15H27NO3
